US05962682
Analogously to Example 77, by condensing methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate with benzo[1,3]dioxol-5-sulphonyl chloride there was obtained methyl 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate und therefrom by treatment with 5.5M HCl there was obtained methyl 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-(2-hydroxy-ethoxy)-benzoate.

reactant | methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C22H26ClNO7
reactant | benzo[1,3]dioxol-5-sulphonyl chloride | O1COC2=C1C=CC(=C2)S(=O)(=O)Cl | C7H5ClO4S
product | methyl 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | O1COC2=C1C=CC(=C2)S(=O)(=O)NC=2C=C(C(=O)OC)C=C(C2OC2=C(C=CC(=C2)OC)Cl)OCCOC2OCCCC2 | C29H30ClNO11S
